US06855269B2
To a stirring mixture of 9 gm of cyanuric chloride, 20 gm of aluminum chloride in 50 mL of o-dichlorobenzene was added 8.5 gm of phenyl ether followed by 11 gm of resorcinol. The reaction mixture was first stirred at room temperature and then gradually heated to 110-115° C., and then held for 4 hr at this temperature. The heating was discontinued, and the reaction mixture quenched with water. O-Dichlorobenzene was removed azeotropically from the product mixture, the precipitated material filtered, and washed with water. The crude product was purified by column chromatography to give 2.3 gm of pure 2,4-bis(2,4-dihyroxyphenyl)-6-(4-phenoxyphenyl)-1,3,5-triazine, identified by HPLC, NMR, LC-UV and mass spectroscopy.

reactant | cyanuric chloride | 9 gm | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | aluminum chloride | 20 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phenyl ether | 8.5 gm | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | resorcinol | 11 gm | C1(O)=CC(O)=CC=C1 | C6H6O2
solvent | o-dichlorobenzene | 50 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2,4-bis(2,4-dihyroxyphenyl)-6-(4-phenoxyphenyl)-1,3,5-triazine | 2.3 gm | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C27H19N3O5
